US06114325
[2-[[N-(2-Aminoethyl)carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 25)
4N Hydrochloric acid--ethyl acetate solution (0.30 ml) was added to a solution of [2-[[N-(2-Aminoethyl)carbamoyloxy]methyl]phenyl]-N-octadecylformamide (0.33 g) in a mixture of ethyl acetate (10 ml) and ethanol (2 ml) at room temperature. After being stirred for 10 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.30 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-(2-Aminoethyl)carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 0.33 g | NCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC | C29H51N3O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethyl acetate | 0.30 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-(2-Aminoethyl)carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.30 g | Cl.NCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC | InChI=1S/C29H51N3O3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-24-32(26-33)28-21-18-17-20-27(28)25-35-29(34)31-23-22-30;/h17-18,20-21,26H,2-16,19,22-25,30H2,1H3,(H,31,34);1H
